US05776951
(a) 4-(4-Bromophenyl)-4-Hydroxytetrahydropyran
1,4-Dibromobenzene (1 17.96 g, Aldrich) in tetrahydrofuran (THF) (700 ml) was cooled to -7020 C. under nitrogen and butylithium (175 ml) was added dropwise. After stirring the mixture for 15 minutes, tetrahydro-4H-pyran4-one (25 g, Aldrich) in the THF (300 ml) was added. The reaction was left for 2 hours before being allowed to warm to room temperature. The reaction mixture was shaken with 5% citric acid (800 ml), then extracted with diethyl ether (3×600 ml). The combined organic layers were washed with water (500 ml), and dried over MgSO4. Removal of the solvent from the filtrate gave the crude tide product as an off-white solid.

reactant | 1,4-Dibromobenzene | 17.96 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | tetrahydro-4H-pyran4-one | 25 g | O1CCC(CC1)=O | C5H8O2
reactant | citric acid | 800 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
solvent | THF | 300 ml | O1CCCC1 | C4H8O
product | 4-(4-Bromophenyl)-4-Hydroxytetrahydropyran | BrC1=CC=C(C=C1)C1(CCOCC1)O | C11H13BrO2
